US08053436B1
(±)-1-Oxiranylmethyl-4-(3-phenyl-propyl)-piperazine
The same method as employed in the preparation of Intermediate 1 but starting from 1-(3-phenylpropyl)-piperazine and 3-nitro-benzenesulfonic acid oxiranylmethyl ester gives after Biotage chromatography the title compound as a yellow oil in a 80% yield.

reactant | 1-(3-phenylpropyl)-piperazine | C1(=CC=CC=C1)CCCN1CCNCC1 | C13H20N2
reactant | 3-nitro-benzenesulfonic acid oxiranylmethyl ester | O1C(C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
product | (±)-1-Oxiranylmethyl-4-(3-phenyl-propyl)-piperazine | 80% yield | O1C(C1)CN1CCN(CC1)CCCC1=CC=CC=C1 | C16H24N2O
